US04780480
A solution of ethyl 7-(4-methylthiobenzoyl)-2,3-dihydrobenzofuran-5-ylacetate (10.0 g), 50 ml of methanol, 200 ml of water, and 4 g of sodium hydroxide was heated at reflux for approximately 2 hours. The reaction mixture was cooled and washed with ether. The ether washed aqueous residue was acidified with dilute hydrochloric acid and then extracted with ethyl acetate. The combined organic extracts were washed with water and evaporated to give a residue which was crystallized from acetone/hexane to give 7-(4-methylthiobenzoyl)-2,3-dihydrobenzofuran-5-ylacetic acid, m.p.--150°-152° C.

reactant | ethyl 7-(4-methylthiobenzoyl)-2,3-dihydrobenzofuran-5-ylacetate | 10.0 g | CC1=CC=C(C(=S)C2=CC(=CC=3CCOC32)CC(=O)OCC)C=C1 | C20H20O3S
reactant | methanol | 50 ml | CO | CH4O
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 7-(4-methylthiobenzoyl)-2,3-dihydrobenzofuran-5-ylacetic acid | CC1=CC=C(C(=S)C2=CC(=CC=3CCOC32)CC(=O)O)C=C1 | C18H16O3S
